US09034880B2
A mixture of ethyl 2-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)acetate (100 mg) and pyrrolidine (1 ml) was heated at 100° C. for 15 h to obtain 60 mg of 2-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)-1-(pyrrolidin-1-yl)ethanone as off white solid after purification by reverse-phase chromatography (C-18, 500 mm×50 mm, Mobile Phase A=0.05% TFA in water, B=0.05% TFA in acetonitrile, Gradient: 10% B to 80% B in 30 min, injection vol. 5 mL).

reactant | ethyl 2-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)acetate | 100 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(=O)OCC)CC1 | C17H22N2O2
reactant | pyrrolidine | 1 ml | N1CCCC1 | C4H9N
product | 2-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)-1-(pyrrolidin-1-yl)ethanone | 60 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(=O)N2CCCC2)CC1 | C19H25N3O
